US04382143
Preparation of 5-hexadecylamino-2-thiophenecarboxylic acid
A mixture of 0.1 g. of ethyl 5-hexadecylamino-2-thiophenecarboxylate, 10 ml. of absolute ethanol and 10 ml. of 0.5 N sodium hydroxide is refluxed for 3 hours. The reaction mixture is cooled and then concentrated. The pH of the solution is adjusted to 5.3 and the resulting solid filtered and dried to yield the product.

reactant | ethyl 5-hexadecylamino-2-thiophenecarboxylate | C(CCCCCCCCCCCCCCC)NC1=CC=C(S1)C(=O)OCC | C23H41NO2S
reactant | sodium hydroxide | 0.5 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5-hexadecylamino-2-thiophenecarboxylic acid | C(CCCCCCCCCCCCCCC)NC1=CC=C(S1)C(=O)O | C21H37NO2S
